US09278981B2
Stage 208.2 5-Bromo-6-chloro-N-(4-(perfluoroethyl)phenyl)nicotinamide
The title compound was prepared in an analogous fashion to that described in Stage 185.2 using 5-bromo-6-chloro-nicotinic acid and 4-pentafluoroethyl-aniline to afford a white crystalline solid. HPLC (Condition 4) tR=6.61 min, UPLC-MS (Condition 3) tR=1.32 min, m/z=429 [M−H]−.

reactant | 5-bromo-6-chloro-nicotinic acid | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | 4-pentafluoroethyl-aniline | FC(C(F)(F)F)(C1=CC=C(N)C=C1)F | C8H6F5N
product | 5-Bromo-6-chloro-N-(4-(perfluoroethyl)phenyl)nicotinamide | BrC=1C(=NC=C(C(=O)NC2=CC=C(C=C2)C(C(F)(F)F)(F)F)C1)Cl | C14H7BrClF5N2O
